US04820715
4-Amino-2-(2-butanon-1-yl)oxy-5-chloro-N-[2-(diethylamino)-ethyl]benzamide
A solution of the tetrabutylammonium salt of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide (5.3 g, 10 mmoles) in acetonitrile (100 ml) was treated with 1-bromo-2-butanone (1.5 g, 10 mmoles) and stirred at 20° for 2 hours. The residue after concentration was treated with water and extracted with ethyl acetate and methylene chloride-2-propanol (5:1). The insoluble solid material was collected and combined with the organic extracts. Concentration of this mixture gave sticky crystalline material which was recrystallized from acetonitrile-water (4:1) to give the title product (3.1 g, 86%), mp, 103.0-104.5°.

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide | 10 mmoles, 5.3 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O | C13H20ClN3O2
reactant | 1-bromo-2-butanone | 10 mmoles, 1.5 g | BrCC(CC)=O | C4H7BrO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-Amino-2-(2-butanon-1-yl)oxy-5-chloro-N-[2-(diethylamino)-ethyl]benzamide | 3.1 g, 86% | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCC(CC)=O | C17H26ClN3O3
